US09085534B2
Preparation 91A: 7-(2-cyclopropylethynyl)-3,4-dihydro-2H-1-benzopyran-4-one
To a solution of 7-bromochroman-4-one (2.0 g, 8.8 mmol) in DMF (10 mL) was added CuI (380 mg, 1.7 mmol), Pd(PPh3)Cl2 (540 mg, 0.8 mmol) and triethylamine (5 mL) under nitrogen at rt. The suspension was warmed to 100° C. and then cyclopropylacetylene (1.1 g, 17.6 mmol) was added dropwise. The mixture was stirred at 100° C. under nitrogen for 2 h. The reaction mixture was cooled to rt, poured into water, and extracted with EtOAc. Organics were separated and washed with brine, dried (Na2SO4), and concentrated. The residue was purified by silica gel chromatography to give 1.65 g (88%) of the title compound as a tan solid. 1H NMR (300 MHz, CDCl3): δ 0.83-0.93 (4H, m), 1.44-1.49 (1H, m), 2.79 (2H, t, J=6.6 Hz), 4.52 (2H, t, J=6.6 Hz), 6.96-7.00 (2H, m), 7.79 (1H, d, J=7.8 Hz). [M+H] calc'd for C14H12O, 213; found 213.

reactant | 7-bromochroman-4-one | 8.8 mmol, 2.0 g | BrC1=CC=C2C(CCOC2=C1)=O | C9H7BrO2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylacetylene | 17.6 mmol, 1.1 g | C1(CC1)C#C | C5H6
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1.7 mmol, 380 mg | [Cu]I
product | 7-(2-cyclopropylethynyl)-3,4-dihydro-2H-1-benzopyran-4-one | 1.65 g, 88% | C1(CC1)C#CC1=CC2=C(C(CCO2)=O)C=C1 | C14H12O2
